US04990495
4.71 g of 12-isobutoxy-4,8-cyclododecadien-1-ol were dissolved in 50 ml of dichloromethane and 8 g of diatomaceous earth were added to this solution, in suspension. After stirring, 8.05 g of PCC were added in small portions, the reaction mixture having been kept under stirring, at room temperature, for 2 h. Afterwards, the chromium salts were precipitated with ethyl ether and the reaction mixture was filtered on SiO2 and concentrated. Distillation in a bulb-to-bulb apparatus gave 3.43 g of 12-isobutoxy-4,8-cyclododecadien-1-one.

reactant | 12-isobutoxy-4,8-cyclododecadien-1-ol | 4.71 g | C(C(C)C)OC1CCC=CCCC=CCCC1O | C16H28O2
reactant | PCC | 8.05 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 12-isobutoxy-4,8-cyclododecadien-1-one | 3.43 g, yield 73% | C(C(C)C)OC1CCC=CCCC=CCCC1=O | C16H26O2
